US07183270B2
Vinylmagnesium bromide (40 mL of a 1.0 M THF solution, 40 mmol) was added to a dry round bottom flask under nitrogen. The solution was cooled to −10° C. and charged with meta-trifluoromethylbenzaldehyde (5.0 g, 29 mmol). The reaction was stirred for 1 h, warmed to RT and quenched with sat. NH4Cl. The mixture was extracted with EtOAC three times, and the organic extracts were dried (MgSO4) and concentrated in vacuo. The crude material was purified via flash chromatography to give 1-(3-trifluoromethylphenyl)propen-1-ol as an oil (5.0 g, 87% yield). A portion of 1-(3-trifluoromethylphenyl)propen-1-ol (0.5 g, 2.5 mmol) was dissolved in acetone (20 mL). The resultant solution was cooled to 0° C., treated with Jones reagent (1.14 mL of a 2.6 M solution, 2.96 mmol), and stirred for 10 minutes before being quenched with the addition of isopropyl alcohol (1.5 mL). The mixture was stirred for 5 min at rt, diluted with Et2O, filtered through Celite, washed with 10% Na2SO3. The material was purified via filtration through a plug of silica gel (1:1 Et2O:hexanes as eluant) to provide the 1-(3-trifluoromethylphenyl)propenone as an oil (320 mg, 65% yield), which solidified upon standing in the freezer. 1H-NMR (300 MHz, CDCl3): δ 8.20 (s, 1H), 8.13 (d, 1H, J=7.7 Hz), 7.84 (d, 1H, J=9.0 Hz),7.64 (t, 1H, J=7.7 Hz), 7.16 (dd, 1H, J=17.2, 10.6 Hz), 6.49 (dd, 1H, J=17.2, 1.5 Hz), 6.03 (dd, 1H, J=10.6, 1.5 Hz).

reactant | Vinylmagnesium bromide | C(=C)[Mg]Br
reactant | meta-trifluoromethylbenzaldehyde | 29 mmol, 5.0 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | 1-(3-trifluoromethylphenyl)propen-1-ol | 5.0 g, 87% yield | FC(C=1C=C(C=CC1)C(=CC)O)(F)F | C10H9F3O
